US06239152B1
5-[5-(R)-Hydroxymethyloxazolidine-2-one-3-yl]-1-triphenylmethylindazole
1 M Lithium bis(trimethylsilyl)amide in tetrahydrofuran (1.1 mL, 1.1 mmol) was added dropwise with stirring at −78° C. to 5-benzyloxycarbonylamino-1-tritylindazole (0.510 g, 1 mmol) in tetrahydrofuran (10 mL) under nitrogen -atmosphere. The mixture was stirred at −78° C. for 1.5 h. (R)-Glycidyl butyrate (0.160 mL, 1.2 mmol) was added dropwise with stirring. The mixture was allowed to warm to r.t. overnight. Saturated aq. NH4Cl (10 mL) was added, and the mixture was extracted with EtOAc (2×20 mL). The combined organic layers were washed with water (10 mL), brine (10 mL), and dried (MgSO4). Solvent was evaporated to 3 mL, and the residue was triturated with hexanes (50 mL). White crystalline product was filtered off, washed with hexanes, and dried in vacuo. Yield 0.440 g (93%). MS (m/z): 232.1 [M−Trt]−. 1H NMR.

reactant | Lithium bis(trimethylsilyl)amide | 1 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-benzyloxycarbonylamino-1-tritylindazole | 1 mmol, 0.510 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H27N3O2
reactant | (R)-Glycidyl butyrate | 1.2 mmol, 0.160 mL | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.1 mmol, 1.1 mL | O1CCCC1 | C4H8O
product | 5-[5-(R)-Hydroxymethyloxazolidine-2-one-3-yl]-1-triphenylmethylindazole | OC[C@H]1CN(C(O1)=O)C=1C=C2C=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H25N3O3
